US04723006
12.1 Parts of 2-amino-4-fluoro-6-fluoromethylpyrimidine was dissolved in 200 parts of 20% aqueous acetic acid at reflux, with stirring. The mixture was heated under reflux for 1 hour then cooled. The precipitated solid was filtered, washed with 50% aqueous acetic acid and then with acetone. The solid was dried in vacuo at 140° C. to give 2-amino-6-fluoromethylpyrimidine-4-one, m.p. 237°-238° C. (decomposition).

reactant | 2-amino-4-fluoro-6-fluoromethylpyrimidine | NC1=NC(=CC(=N1)F)CF | C5H5F2N3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-amino-6-fluoromethylpyrimidine-4-one | NC1=NC(=CC(N1)=O)CF | C5H6FN3O
